US04933355
Benzyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetate
A mixture comprising 1 g of 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid, 0.25 g of triethylamine, 0.7 g of benzyl bromide and 10 ml of hexamethylphosphoric triamide was stirred at room temperature overnight. The reaction mixture was then poured into water and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated off under reduced pressure. The residue was purified by silica gel column chromatography, using as eluent a 2:1 by volume mixture of hexane and ethyl acetate. The resulting product was a yellow powder having the following physical properties.

reactant | 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid | 1 g | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)O)=O | C19H16N4O6S3
reactant | triethylamine | 0.25 g | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 0.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | water | O | H2O
product | Benzyl 5-{1-ethoxycarbonyl-1-[2-(3-phenylureido)thiazol-4-yl]methylene}rhodanine-3-acetate | C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NC1=CC=CC=C1)=C1C(N(C(S1)=S)CC(=O)OCC1=CC=CC=C1)=O | C26H22N4O6S3
